US06495533B1
(2R)-2-Octylsulfonylamino-2-phenylethanol
To a solution of (2R)-2-amino-2-phenylethanol (960 mg) in methylene chloride (30 ml) was added triethylamine (2.0 ml) and the mixture was cooled to −78° C. To the mixture was added dropwise chlorotrimethylsilane (0.90 ml), the mixture was stirred for 3 hours at −78° C. and then stirred for 1 hour at 0° C. The reaction mixture was cooled to −78° C. again. To the mixture was added dropwise 1-octanesulfonyl chloride (1.4 ml) and the mixture was stirred for 2 hours at −78° C. and then stirred for 15 hours at 0° C. The reaction mixture was diluted with ethyl acetate and then washed with 1N hydrochloric acid, a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride, successively, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1→3:2) to give the title compound (1.70 g) having the following physical data.

reactant | (2R)-2-amino-2-phenylethanol | 960 mg | N[C@@H](CO)C1=CC=CC=C1 | C8H11NO
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 0.90 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 1-octanesulfonyl chloride | 1.4 ml | C(CCCCCCC)S(=O)(=O)Cl | C8H17ClO2S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-2-Octylsulfonylamino-2-phenylethanol | 1.70 g | C(CCCCCCC)S(=O)(=O)N[C@@H](CO)C1=CC=CC=C1 | C16H27NO3S
